US05270331
To a 0° C. solution of diethylamine (1819 mL) and triethylamine (25.5 mL) in 500 mL of methylene chloride was added dropwise, with stirring, 25 g of acetoxyacetyl chloride. The ice bath was removed, and the mixture allowed to warm to 20° C. while stirring for an additional 2 hr. After filtration to remove amine hydrochloride salts, the methylene chloride solution was evaporated under reduced pressure to provide 29.1 g of crude, N,N-diethylacetoxyacetamide, as a yellow oil. The yellow oil was dissolved in 125 mL of methanol and 168 mL of 1N sodium hydroxide added with stirring. A slight exotherm was noted, and the mixture was allowed to stir for 2 hr. without further warming. Solvents were removed under reduced pressure to 1/4 volume, and the remaining aqueous solution extracted with ethyl acetate (200 ml). The ethyl acetate extract was dried over anh. sodium sulfate, and evaporated under reduced pressure to provide 14.0 g of N,N-diethylglycolamide as a yellow oil.

reactant | diethylamine | 1819 mL | C(C)NCC | C4H11N
reactant | triethylamine | 25.5 mL | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 25 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | N,N-diethylacetoxyacetamide | C(C)N(C(COC(C)=O)=O)CC | C8H15NO3
